US04115568
(j) Ethyl 5-ethyl-2-(4-methylthio-2-nitroanilino)-thiophene-3-carboxylate
4-Fluoro-3-nitro-thioanisole and ethyl 2-amino-5-ethyl-thiophene-3-carboxylate.

reactant | 4-Fluoro-3-nitro-thioanisole | FC1=C(C=C(C=C1)SC)[N+](=O)[O-] | C7H6FNO2S
reactant | ethyl 2-amino-5-ethyl-thiophene-3-carboxylate | NC=1SC(=CC1C(=O)OCC)CC | C9H13NO2S
product | Ethyl 5-ethyl-2-(4-methylthio-2-nitroanilino)-thiophene-3-carboxylate | C(C)C1=CC(=C(S1)NC1=C(C=C(C=C1)SC)[N+](=O)[O-])C(=O)OCC | C16H18N2O4S2
